US04282246
5-(4-Methoxyphenylthio)furan-3-carboxylic Acid
By the procedure of Example 11, p-methoxythiophenol (4.39 g., 31.4 mmoles) and cuprous oxide (2.25 g., 15.7 mmoles) heated at 135° C. for 2 hours were reacted with 5-bromofuran-3-carboxylic acid (3 g., 15.7 mmoles) in 60 ml. of dimethylformamide, and crude product (1.67 g. ) isolated. Recrystallization from methylene chloride/hexane gave purified 5-(4-methoxphenylthio)furan-3-carboxylic acid (825 mg., m.p. 115°-117° C., m/e 250).

reactant | p-methoxythiophenol | 31.4 mmoles, 4.39 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | 5-bromofuran-3-carboxylic acid | 15.7 mmoles, 3 g | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-Methoxyphenylthio)furan-3-carboxylic Acid | 1.67 g | COC1=CC=C(C=C1)SC1=CC(=CO1)C(=O)O | C12H10O4S
